US08372884B2
Synthesis of ((6S,9R,13E,17E)-6-isopropyl-2,2,14,18,22-pentamethyl-4,7-dioxo-3-oxa-11-thia-5,8-diazatricosa-13,17,21-triene-9-carboxylic acid) (Compound N-9):
In a 100 mL round bottom flask, N-Boc-L-valine (1.0 mmol), coupling reagent (520 mg of PBOP or 380 mg of HATU, 1 mmol) and N,N-diisopropyl-ethyl-amine (650 mg, 5 mmol) were mixed in CH2Cl2 (10 mL). The reaction mixture was stirred at room temperature for 30 minutes. S-trans, trans-farnesyl-L-cysteine (325 mg, 1 mmol) was added to the reaction mixture and stirred at room temperature overnight. CH2Cl2 was removed by rotary evaporation. The resulting residue was dissolved in ethyl acetate (50 mL). The organic solution was washed with an NH4Cl saturated solution (50 mL), dried over Na2SO4, and concentrated to afford a crude mixture. The crude mixture was purified by preparative HPLC (276 mg, 53%) to yield Compound N-9. 1H-NMR (500 MHz, CD3OD): δ 0.95 (d, J=6.5 Hz, 3H), 0.99 (d, J=6.5 Hz, 3H), 1.21 (m, 1H), 1.47 (s, 9H), 1.62 (bs, 6H), 1.69 (s, 3H), 1.71 (s, 3H), 1.99 (t, J=7.5 Hz, 2H), 2.05-2.15 (m, 8H), 2.78 (dd, J=8.5, 14.0, 1H), 3.00 (dd, J=4.5, 14.0 Hz, 1H), 3.16 (dd, J=7.5, 13.2 Hz, 1H), 3.27 (dd, J=8.4, 13.2 Hz, 1H), 3.95 (d, J=6.5 Hz, 1H), 4.61 (dd, J=4.8, 8.0 Hz, 1H), 5.10-5.14 (m, 2H), 5.51 (t, J=7.4 Hz, 1H). 13C-NMR (125 MHz, CDCl3): δ 16.2, 16.3, 17.8, 18.4, 19.8, 25.9, 27.4, 27.8, 28.8, 30.3, 32.2, 33.5, 40.8, 40.9, 53.3, 61.5, 80.6, 121.6, 125.2, 125.5, 132.1, 136.3, 140.5, 157.9, 173.6, 174.4; ES-MS: mass calcd for Chemical Formula: C28H48N2O5S 524.7. Found (M+Na) m/z 547.4.

reactant | N-Boc-L-valine | 1.0 mmol | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | PBOP | 520 mg | C[C@H]([C@H]1C(=O)NCC[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N1)CCN)CCN)CC(C)C)CC2=CC=CC=C2)CCN)NC(=O)[C@H](CCN)N)O.OS(=O)(=O)O
reactant | HATU | 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropyl-ethyl-amine | 5 mmol, 650 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (6S,9R,13E,17E)-6-isopropyl-2,2,14,18,22-pentamethyl-4,7-dioxo-3-oxa-11-thia-5,8-diazatricosa-13,17,21-triene-9-carboxylic acid | C(C)(C)[C@H](NC(OC(C)(C)C)=O)C(N[C@@H](CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)C(=O)O)=O | C28H48N2O5S
